US04628057
(3RS)-2-[(Cyclohexylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
In the same manner as described in Example 6, (3RS)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (4.32 g), NaOH (1.8 g), dimethylsulfoxide (25 ml), water (2 ml), carbon disulfide (1.45 ml) and cyclohexyl bromide (3.9 g) are reacted and treated. The product is crystallized from chloroform-n-hexane to give the title compound (4.5 g, 61%), m.p. 150.5°-151° C.

reactant | (3RS)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 4.32 g | C1NC(CC=2C3=CC=CC=C3NC12)C(=O)O | C12H12N2O2
reactant | NaOH | 1.8 g | [OH-].[Na+]
reactant | dimethylsulfoxide | 25 ml | CS(=O)C | C2H6OS
reactant | cyclohexyl bromide | 3.9 g | C1(CCCCC1)Br | C6H11Br
reactant | carbon disulfide | 1.45 ml | C(=S)=S | CS2
solvent | water | 2 ml | O | H2O
product | (3RS)-2-[(Cyclohexylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 4.5 g, 61% | C1(CCCCC1)SC(=S)N1CC=2NC3=CC=CC=C3C2CC1C(=O)O | C19H22N2O2S2
